US05569768
5-(2-cyanophenyl)indole (1.26 mmoles,630 mg) was dissolved in THF (20 ml) and treated with ethylmagnesium bromide (1.26 mmoles, 0.630 ml) and ethyl iodide (3.45 mmoles, 0.54 g) as in Example 24 to yield 98 mg of 5-(2-cyanophenyl)-3-ethylindole. (MS)

reactant | 5-(2-cyanophenyl)indole | 1.26 mmoles, 630 mg | C(#N)C1=C(C=CC=C1)C=1C=C2C=CNC2=CC1 | C15H10N2
reactant | ethylmagnesium bromide | 1.26 mmoles, 0.630 ml | C(C)[Mg]Br
reactant | ethyl iodide | 3.45 mmoles, 0.54 g | C(C)I | C2H5I
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-(2-cyanophenyl)-3-ethylindole | 98 mg | C(#N)C1=C(C=CC=C1)C=1C=C2C(=CNC2=CC1)CC | C17H14N2
